US07585885B2
N-Methyl-N-propyl-5-(2,2,2-trifluoro-1-hydroxyethyl)-isophthalamic acid ethyl ester
Treat a solution of 5-formyl-N-methyl-N-propyl-isophthalamic acid ethyl ester (500 mg, 1.8 mmol) in THF (10 mL) at 0° C. with trimethyl(trifluoromethyl)silane (0.5 M in THF, 5.4 mL, 2.70 mmol) and tetrabutylammonium fluoride (1.0 M in THF, 2.7 mL, 2.70 mmol). Stir at 0° C. for 2 h and quench with saturated aqueous NaHCO3. Extract with ethyl acetate (100 mL), dry (magnesium sulfate) and concentrate to give the crude title product which is used in the next step without further purification.

reactant | 5-formyl-N-methyl-N-propyl-isophthalamic acid ethyl ester | 1.8 mmol, 500 mg | C(C)OC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C=O)=O | C15H19NO4
reactant | trimethyl(trifluoromethyl)silane | 2.70 mmol, 0.5 M, 5.4 mL | C[Si](C(F)(F)F)(C)C | C4H9F3Si
reactant | tetrabutylammonium fluoride | 2.70 mmol, 1.0 M, 2.7 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | N-Methyl-N-propyl-5-(2,2,2-trifluoro-1-hydroxyethyl)-isophthalamic acid ethyl ester | C(C)OC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C(C(F)(F)F)O)=O | C16H20F3NO4
